US04497957
50 g of DL-tryptophan available from Nakarai Chemicals, Kyoto, Japan, was suspended in 500 ml of methanol and 40 ml of thionyl chloride was dropwise added thereto while vigorously stirring. The reaction was exothermic and the reaction mixture was allowed to be refluxed for 10 hours while stirring. Then, the solvent was distilled off and the resultant residue was washed with diethylether. Thus, DL-tryptophan methylester hydrochloride was obtained in the form of white crystals.

reactant | DL-tryptophan | 50 g | NC(CC1=CNC2=CC=CC=C12)C(=O)O | C11H12N2O2
reactant | thionyl chloride | 40 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 500 ml | CO | CH4O
product | DL-tryptophan methylester hydrochloride | Cl.COC(C(N)CC1=CNC2=CC=CC=C12)=O | InChI=1S/C12H14N2O2.ClH/c1-16-12(15)10(13)6-8-7-14-11-5-3-2-4-9(8)11;/h2-5,7,10,14H,6,13H2,1H3;1H
